US07767675B2
Step 2. Benzyl[1-(methoxymethyl)cyclopropyl]carbamate
To a solution of benzyl[1-(hydroxymethyl)cyclopropyl]carbamate (0.32 g, 0.0014 mol) in methylene chloride (5.0 mL) was added sequentially powdered MS 4A, N,N,N′,N′-tetramethyl-1,8-naphthalenediamine (0.77 g, 0.0036 mol), and trimethyloxonium tetrafluoroborate (0.43 g, 0.0029 mol) at RT. The mixture was stirred for 5 h, filtered through a pad of Celite, and washed with EtOAc. The filtrate was washed with 1N HCl, water, brine, dried over MgSO4, filtered, and concentrated. The residue was purified by chromatography on silica gel with EtOAc in hexanes (0-30%) to afford the desired product (140 mg, 41%). LCMS: (M+H)=236.1.

reactant | benzyl[1-(hydroxymethyl)cyclopropyl]carbamate | 0.0014 mol, 0.32 g | C(C1=CC=CC=C1)OC(NC1(CC1)CO)=O | C12H15NO3
reactant | N,N,N′,N′-tetramethyl-1,8-naphthalenediamine | 0.0036 mol, 0.77 g | CN(C1=CC=CC2=CC=CC(=C12)N(C)C)C | C14H18N2
reactant | trimethyloxonium tetrafluoroborate | 0.0029 mol, 0.43 g | F[B-](F)(F)F.C[O+](C)C
solvent | methylene chloride | 5.0 mL | C(Cl)Cl | CH2Cl2
product | Benzyl[1-(methoxymethyl)cyclopropyl]carbamate | 140 mg, 41% | C(C1=CC=CC=C1)OC(NC1(CC1)COC)=O | C13H17NO3
